US06835731B2
Preparation of N-(4-Aminomethyl-benzyl)-2-nitro-N-(5,6,7,8-tetrahydro-quinolin-7-yl)-benzenesulfonamide:
To a stirred solution of (4-{[(2-Nitro-benzenesulfonyl)-(5,6,7,8-tetrahydro-quinolin-7-yl)-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester (160 mg, 0.29 mmol) in anhydrous CH2Cl2 (2 mL) was added TFA (2 mL). The resultant solution was stirred at room temperature overnight. The mixture was concentrated in vacuo, dissolved with MeOH, and added NaHCO3. The mixture was stirred for 20 min, diluted with CH2Cl2, filtered through celite. The crude product was purified by flash chromatography on silica gel (1:1:98 CH3OH—NH3 H2O—CH2Cl2) afforded the title compound (75 mg, 57%) as a white foam.

reactant | (4-{[(2-Nitro-benzenesulfonyl)-(5,6,7,8-tetrahydro-quinolin-7-yl)-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester | 0.29 mmol, 160 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN(C1CCC=2C=CC=NC2C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C28H32N4O6S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Aminomethyl-benzyl)-2-nitro-N-(5,6,7,8-tetrahydro-quinolin-7-yl)-benzenesulfonamide | 75 mg, 57% | NCC1=CC=C(CN(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C2CCC=3C=CC=NC3C2)C=C1 | C23H24N4O4S
